US07381719B2
Add lithium aluminum hydride (8.00 g, 211 mmol) to anhydrous tetrahydrofuran (150 mL) and cool to 0° C. under nitrogen. Add N-benzyl-3-(4-hydroxy-phenyl)-propionamide (9.74 g, 38.2 mmol) to anhydrous tetrahydrofuran (80 mL) and add this solution slowly via cannula to the lithium aluminum hydride/tetrahydrofuran mixture at 0° C. under nitrogen. Once this addition is complete, remove the ice bath and heat to reflux for 18 h under nitrogen. Cool the reaction to 0° C. and slowly quench with water (200 mL). Adjust the pH of the solution to pH=8 with 4 M hydrochloric acid. Saturate this solution with sodium chloride, extract with ethyl acetate (3×100 mL), dry the extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to yield 9.00 g (98%) of 4-(3-benzylamino-propyl)-phenol: mass spectrum (ion spray): m/z=242.1 (M+1); 1H NMR (DMSO-d6): 7.31-7.16 (m, 6H), 6.95-6.92 (m, 2H), 6.66-6.62 (m, 2H), 3.65 (s, 2H), 2.48-2.43 (m, 5H), 1.68-1.60 (m, 2H).

reactant | lithium aluminum hydride | 211 mmol, 8.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-benzyl-3-(4-hydroxy-phenyl)-propionamide | 38.2 mmol, 9.74 g | C(C1=CC=CC=C1)NC(CCC1=CC=C(C=C1)O)=O | C16H17NO2
reactant | lithium aluminum hydride tetrahydrofuran | [H-].[Al+3].[Li+].[H-].[H-].[H-].O1CCCC1
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-(3-benzylamino-propyl)-phenol | 9.00 g, 98% | C(C1=CC=CC=C1)NCCCC1=CC=C(C=C1)O | C16H19NO
